US06121271
(2-Benzyl-4,5-dimethyl-thiophen-3-yl)-(3,5-diisopropyl-4-methoxy-phenyl)-methanone
Using 3,5-diisopropyl-p-anisic acid (5.0 g, 21.2 mmol, RN-117439-59-5), oxalyl chloride (2.2 mL, 25.4 mmol), N,N-dimethylformamide (2 drops), 2,3-dimethyl-5-benzylthiophene (4.3 g, 21.2 mmol), tin(IV) chloride (5.0 mL, 42.7 mmol), and anhydrous methylene chloride (82 mL) the title compound was prepared according to the procedure in Example 2, step 1 to give 4.1 g (45%) NMR (DMSO-d6) δ 7.47 (s, 2 H), 7.23-7.12 (m, 3 H), 7.02-6.99 (m, 2 H), 3.86 (s, 2 H), 3.73 (s, 3 H), 3.31-3.20 (m, 2 H), 2.27 (s, 3 H), 1.82 (s, 3 H), 1.15 (d, 12 H). MS(EI), [M+] 420.

reactant | 3,5-diisopropyl-p-anisic acid | 21.2 mmol, 5.0 g | C(C)(C)C=1C=C(C(=O)O)C=C(C1OC)C(C)C | C14H20O3
reactant | oxalyl chloride | 25.4 mmol, 2.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2,3-dimethyl-5-benzylthiophene | 21.2 mmol, 4.3 g | CC=1SC(=CC1C)CC1=CC=CC=C1 | C13H14S
reactant | tin(IV) chloride | 42.7 mmol, 5.0 mL | [Sn](Cl)(Cl)(Cl)Cl
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | methylene chloride | 82 mL | C(Cl)Cl | CH2Cl2
product | (2-Benzyl-4,5-dimethyl-thiophen-3-yl)-(3,5-diisopropyl-4-methoxy-phenyl)-methanone | C(C1=CC=CC=C1)C=1SC(=C(C1C(=O)C1=CC(=C(C(=C1)C(C)C)OC)C(C)C)C)C | C27H32O2S
